US08114872B2
1-(4-(Benzo[b]thiophen-7-yl) pyridin-3-yl)ethanol
Cool a solution of 4-benzo[b]thiophen-7-yl-pyridine-3-carbaldehyde (1.5 g, 6.27 mmol in THF (50 mL) in a 250-mL round bottom flask to 0° C. and add gradually methylmagnesium bromide (2.38 g, 6.90 mmol, 2.30 mL) to the solution. Stir the mixture from 0° C. to RT for 2 h. Hydrolyze the mixture by mixing with 1 N HCl (200 mL). Adjust the pH to 11 with ammonium hydroxide. Extract into chloroform/IPA (3/1, 200 mL). Wash the organic phase with water and saturated aqueous sodium chloride. Dry over sodium sulfate and concentrate in vacuo. Purify by FCC (hexane to 10% ethyl acetate in hexane, then 20% THF in DCM) to give the title compound as a yellow oil (1.00 g, 62%). MS (ES) m/z 256 [M+1]+.

reactant | 4-benzo[b]thiophen-7-yl-pyridine-3-carbaldehyde | S1C2=C(C=C1)C=CC=C2C2=C(C=NC=C2)C=O | C14H9NOS
reactant | methylmagnesium bromide | 6.90 mmol, 2.30 mL, 2.38 g | C[Mg]Br
reactant | HCl | 1 N, 200 mL | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(4-(Benzo[b]thiophen-7-yl) pyridin-3-yl)ethanol | 1.00 g, 62% | S1C2=C(C=C1)C=CC=C2C2=C(C=NC=C2)C(C)O | C15H13NOS
